US07439266B2
0.85 g of 2-cyano-2-propanol and solution F were mixed and stirred for 15 minutes at 0° C. To the mixture was added 0.8 ml of chloroacetic chloride and the solution was stirred for 5 minutes at 0° C., additional 2 hours at room temperature and further 1 hour at 70° C. Then, to the reaction mixture was added 1N hydrochloric acid and water, and extracted with ethyl acetate. The organic layer was washed successively with water and aqueous solution of sodium bicarbonate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue obtained was subjected to silica gel column chromatography to give 0.25 g of (1-cyano-1-methylethyl) chloroacetate.

reactant | 2-cyano-2-propanol | 0.85 g | C(#N)C(C)(C)O | C4H7NO
reactant | chloroacetic chloride | 0.8 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
product | (1-cyano-1-methylethyl) chloroacetate | 0.25 g | ClCC(=O)OC(C)(C)C#N | C6H8ClNO2
